US07612075B2
D. 1-(4-Amino-quinazolin-7-ylmethyl)-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one.
1-(4-Amino-quinazolin-7-ylmethyl)-4-benzyloxycarbonyl-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one (100 mg, 0.215 mmol) is dissolved in 5 ml of 30% hydrogen bromide in acetic acid. The mixture is stirred for 1 hour, diluted with ethyle ether. The ether is decanted and the resulting solid is washed thoroughly with ethyle ether. The resulting crude product is purified by column chromatography eluting with a 4/2/1 mixture of CH2Cl2/MeOH/NH4OH (30% in H2O). with a gradient of 5% MeOH:CH2Cl2 to 10% MeOH:CH2Cl2. The resulting product is purified by another column chromatography eluting with a gradient of 20% MeOH:CH2Cl2 to 50% MeOH:CH2Cl2. The title bound (30 mg, 42% yield) is obtained as an off-white solid.

reactant | 1-(4-Amino-quinazolin-7-ylmethyl)-4-benzyloxycarbonyl-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one | 0.215 mmol, 100 mg | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](N(CC1)C(=O)OCC1=CC=CC=C1)CCSC)=O | C24H27N5O3S
solvent | hydrogen bromide | 5 ml | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | 1-(4-Amino-quinazolin-7-ylmethyl)-3-(S)-(2-methylsulfanyl-ethyl)-piperazin-2-one | 42% yield | NC1=NC=NC2=CC(=CC=C12)CN1C([C@@H](NCC1)CCSC)=O | C16H21N5OS
